US07868030B2
2.5 M n-butyllithium, in tetrahydrofuran, (0.46 ml, 1.17 mmol, 1.1 equiv.) was added dropwise to a solution of 4-bromo-2,6-dimethylbiphenyl (0.28 g, 1.06 mmol, 1.0 equiv.) in dry tetrahydrofuran (5 ml), under nitrogen at −78° C. and the mixture stirred for 15 minutes. This solution was added, by canula, to a solution of sulfur dioxide (3 mL) and tetrahydrofuran (3 ml) under nitrogen at −78° C. The solution was allowed to warm to room temperature while stirring for 16 hours. The solvent was evaporated under reduced pressure and the residue suspended in hexane (4 ml) and dichloromethane (4 ml). The suspension was cooled to 0° C., a solution of sulfuryl chloride (0.14 g, 1.06 mmol, 1.0 equiv.) in hexane (2 ml) was added and the mixture was allowed to warm to room temperature while stirring for 1.5 hours. The hexane and dichloromethane were evaporated under reduced pressure to afford crude 2,6-dimethylbiphenyl-4-sulfonyl chloride, 0.22 g (74% yield) as a red gum, this material was used in the next step without further purification.

reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 4-bromo-2,6-dimethylbiphenyl | 1.06 mmol, 0.28 g, 1.0 equiv. | BrC1=CC(=C(C(=C1)C)C1=CC=CC=C1)C | C14H13Br
reactant | sulfur dioxide | 3 mL | S(=O)=O | O2S
reactant | sulfuryl chloride | 1.06 mmol, 0.14 g, 1.0 equiv. | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.17 mmol, 0.46 ml, 1.1 equiv. | O1CCCC1 | C4H8O
product | 2,6-dimethylbiphenyl-4-sulfonyl chloride | 74% yield | CC1=C(C(=CC(=C1)S(=O)(=O)Cl)C)C1=CC=CC=C1 | C14H13ClO2S
